US06127515
2-(4-hydroxy-3-nitrobenzoyl)benzoic acid is prepared as follows: a mixture of 10.0 g of 2-(4-chloro-3-nitrobenzoyl)benzoic acid, 200 ml of aqueous sodium hydroxide (1.5 M) and 20 ml of dioxane is heated at reflux for 12 hours. After cooling, the mixture is added to 200 ml of 1:1 concentrated sulfuric acid-ice water with stirring. The resulting solid is filtered, washed with water to a pH of about 6 and dried to obtain 9.5 g of 2-(4-hydroxy-3-nitrobenzoyl)benzoic acid as a light yellow solid. MS: (EI 70 eV); M+,(%): 287 (36); 197 (31); 166 (100); 149 (75); 120 (34).

reactant | 2-(4-chloro-3-nitrobenzoyl)benzoic acid | 10.0 g | ClC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H8ClNO5
reactant | sodium hydroxide | 1.5 M, 200 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-(4-hydroxy-3-nitrobenzoyl)benzoic acid | 9.5 g | OC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H9NO6
